US07294635B2
To a suspension of 7-Fluoro-6-hydroxy-2-(4-nitro-phenyl)-2H-isoquinolin-1-one (1.15 g, 3.8 mmol) in dry pyridine (25 mL) and dichloromethane (20 mL) was added neat trifluoromethanesulfonic anhydride (0.8 mL, 4.76 mmol) dropwise over 5 min. The resulting solution was stirred at room temp for 2 hr. The reaction mixture was diluted with ethyl acetate (200 mL), washed with 1N HCl (60 mL), water (50 mL) and brine (50 mL), dried over sodium sulfate, filtered, concentrated in vacuo and dried to give 1.37 g (83%) of pure trifluoromethanesulfonic acid 7-fluoro-2-(4-nitro-phenyl)-1-oxo-1,2-dihydro-isoquinolin-6-yl ester. RP-HPLC: 6.20 min; ES-MS (M+H)+=433.0; 1H-NMR (DMSO-d6) δ (ppm): 6.88 (d, 1), 7.64 (d, 1), 7.80 (d, 2), 8.24 (m, 2,; 8.37 (d, 2).

reactant | 7-Fluoro-6-hydroxy-2-(4-nitro-phenyl)-2H-isoquinolin-1-one | 3.8 mmol, 1.15 g | FC1=C(C=C2C=CN(C(C2=C1)=O)C1=CC=C(C=C1)[N+](=O)[O-])O | C15H9FN2O4
reactant | trifluoromethanesulfonic anhydride | 4.76 mmol, 0.8 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | pyridine | 25 mL | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | trifluoromethanesulfonic acid 7-fluoro-2-(4-nitro-phenyl)-1-oxo-1,2-dihydro-isoquinolin-6-yl ester | 1.37 g, 83% | FC1=C(C=C2C=CN(C(C2=C1)=O)C1=CC=C(C=C1)[N+](=O)[O-])OS(=O)(=O)C(F)(F)F | C16H8F4N2O6S
